US04266078
The reactant N-chloroacetyl 4-chlorobenzene sulfonamide was prepared by mixing 30.0 g of 4-chlorobenzene sulfonamide and 60.0 ml of chloroacetylchloride. The mixture was refluxed for 6 hours, allowed to cool, and stand at room temperature overnight. The crystalline product was removed by filtration, washed repeatedly with hexane, and dried. The product consisted of 32.5 g of reactant (m.p. 122°-124° C.). Structure was confirmed by IR and NMR.

reactant | 4-chlorobenzene sulfonamide | 30.0 g | ClC1=CC=C(C=C1)S(=O)(=O)N | C6H6ClNO2S
reactant | chloroacetylchloride | 60.0 ml | ClCC(=O)Cl | C2H2Cl2O
product | N-chloroacetyl 4-chlorobenzene sulfonamide | ClCC(=O)NS(=O)(=O)C1=CC=C(C=C1)Cl | C8H7Cl2NO3S
